US06040327
Step A: 1-(3-Amino-4-nitrophenyl)imidazole
240 mmol of imidazole, 240 mmol of 2-amino4-chloronitrobenzene and 240 mmol of potassium carbonate in 450 ml of dimethylformamide (DMF) are stirred in a 1 litre round-bottomed flask. The mixture is maintained at 130° C. with stirring for 48 hours. After the DMF has been removed by evaporation, the residue is taken up in water. The precipitate that forms is filtered off and then washed with water. It is then dissolved in 550 ml of 1N hydrochloric acid. After insoluble material has been filtered off, the filtrate is rendered alkaline and the precipitate that forms is filtered off and washed with water. After drying, the expected product is obtained after purification by chromatography on silica gel using a dichloromethane/methanol mixture(95/5).

reactant | imidazole | 240 mmol | N1C=NC=C1 | C3H4N2
reactant | 2-amino4-chloronitrobenzene | 240 mmol | NC1=C(C=CC(=C1)Cl)[N+](=O)[O-] | C6H5ClN2O2
reactant | potassium carbonate | 240 mmol | C([O-])([O-])=O.[K+].[K+]
solvent | dimethylformamide | 450 ml | CN(C=O)C | C3H7NO
product | 1-(3-Amino-4-nitrophenyl)imidazole | NC=1C=C(C=CC1[N+](=O)[O-])N1C=NC=C1 | C9H8N4O2
